US06534499B2
1-(2-Cyclohexylethyl)-1-[2-(methylthio) ethyl]-3-[2-(1-piperidyl)-ethyl]urea (Compound 4-1):
To a solution of 2-(1-piperidyl) ethylamine (151 mg) in anhydrous tetrahydrofuran (5.9 ml), there was added 1,1′-carbonyl diimidazole (228 mg) in a nitrogen gas atmosphere and the resulting mixture was stirred at room temperature for 15 minutes. Then 2-cyclohexyl-N-[2-(methylthio) ethyl]-ethylamine hydrochloride (309 mg) was added to the foregoing mixture and the resulting mixture was refluxed with heating for 45 minutes. Ethyl acetate was added to the reaction solution with ice cooling, followed by washing the reaction solution with saturated aqueous solution of sodium hydrogen carbonate and then with saturated sodium chloride aqueous solution, drying over anhydrous sodium sulfate and concentration under reduced pressure. The resulting oily product was purified by the silica gel column chromatography to thus give the title compound (Compound 4-1).

reactant | 2-(1-piperidyl) ethylamine | 151 mg | N1(CCCCC1)CCN | C7H16N2
reactant | 1,1′-carbonyl diimidazole | 228 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-cyclohexyl-N-[2-(methylthio) ethyl]-ethylamine hydrochloride | 309 mg | Cl.C1(CCCCC1)CCNCCSC
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5.9 ml | O1CCCC1 | C4H8O
product | 1-(2-Cyclohexylethyl)-1-[2-(methylthio) ethyl]-3-[2-(1-piperidyl)-ethyl]urea | C1(CCCCC1)CCN(C(=O)NCCN1CCCCC1)CCSC | C19H37N3OS
